US07671201B2
Step A Synthesis of 1,3-dichloro-5-methoxy-2-{4-[3-(trifluoromethyl)phenyl]piperazinyl}benzene as an Intermediate
A stirred mixture of 2.5 grams (0.0096 mole) of 1,3-dichloro-5-methoxy-2-bromobenzene (known compound), 0.18 mL (0.0096 mole) of 1-(α,α,α-trifluoro-meta-tolyl)piperazine (known compound), 0.18 gram (0.0002 mole) of tris(dibenzylideneacetone)dipalladium(0), 0.36 gram (0.0006 mole) of racemic-2,2′-bis(diphenylphosphono)-1,1′-binaphthyl, and 1.66 grams (0.017 mole) of sodium tert-butoxide in 100 mL of toluene was heated at 100° C. for about 60 hours. After this time, the reaction mixture was cooled and washed with two 10 mL portions of water. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using 1:3 and 1:1 mixtures of methylene chloride:hexane as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 2.1 grams of the subject compound, mp 87-89° C. The NMR spectrum was consistent with the proposed structure.

reactant | 1,3-dichloro-5-methoxy-2-bromobenzene | 0.0096 mole, 2.5 grams | ClC1=C(C(=CC(=C1)OC)Cl)Br | C7H5BrCl2O
reactant | 1-(α,α,α-trifluoro-meta-tolyl)piperazine | 0.0096 mole, 0.18 mL | FC(C1=CC(=CC=C1)N1CCNCC1)(F)F | C11H13F3N2
reactant | racemic-2,2′-bis(diphenylphosphono)-1,1′-binaphthyl | 0.0006 mole, 0.36 gram | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C44H32O6P2
reactant | sodium tert-butoxide | 0.017 mole, 1.66 grams | CC(C)([O-])C.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0002 mole, 0.18 gram | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,3-dichloro-5-methoxy-2-{4-[3-(trifluoromethyl)phenyl]piperazinyl}benzene | 2.1 grams | ClC1=C(C(=CC(=C1)OC)Cl)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C18H17Cl2F3N2O
